US07081454B2
(S)-4-(1-Benzyl-2-trityloxy-ethylamino)-3-(6-bromo-4-methyl-1H-benzimidazol-2-yl)-1H-pyridin-2-one:
To a solution of (S)-4-(1-benzyl-2-hydroxy-ethylamino)-3-(6-bromo-4-methyl-1H-benzimidazol-2-yl)-1H-pyridin-2-one (0.9 g, 1.98 mmol) in THF (30 mL), was added Cs2CO3 (1.29 g, 3.96 mmol) followed by triphenylmethyl chloride (1.10 g, 3.96 mmol). The reaction mixture was heated to reflux for 14 h under nitrogen and then cooled to room temperature. After removal of the solvent, the residue was diluted with ethyl acetate and washed with water. The aqueous fraction was extracted with ethyl acetate and the combined organic layers were washed with water and brine, dried over Na2SO4. After concentration in vacuo, the residue was purified by flash column chromatography (30% EtOAc/hexane) to yield the title compound (1 g, 73%) as a white solid. 1N NMR (300 MHz, DMSO-d6) δ 11.77 (1H, broad s), 11.73 (1H, d, J=5.2 Hz), 11.46 (1H, broad s), 7.13–7.54 (23H, m), 5.87 (1H, d, J=4.5 Hz), 4.09–4.14 (1H, m), 3.07–3.42 (4H, m), 2.54 (3H, s). LCMS (M+H)+ m/z 695 (t=2.79 min.).

reactant | (S)-4-(1-benzyl-2-hydroxy-ethylamino)-3-(6-bromo-4-methyl-1H-benzimidazol-2-yl)-1H-pyridin-2-one | 1.98 mmol, 0.9 g | C(C1=CC=CC=C1)[C@@H](CO)NC1=C(C(NC=C1)=O)C1=NC2=C(N1)C=C(C=C2C)Br | C22H21BrN4O2
reactant | Cs2CO3 | 3.96 mmol, 1.29 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | triphenylmethyl chloride | 3.96 mmol, 1.10 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (S)-4-(1-Benzyl-2-trityloxy-ethylamino)-3-(6-bromo-4-methyl-1H-benzimidazol-2-yl)-1H-pyridin-2-one | 1 g, 73% | C(C1=CC=CC=C1)[C@@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC1=C(C(NC=C1)=O)C1=NC2=C(N1)C=C(C=C2C)Br | C41H35BrN4O2
